US04107307
3-(2-Methyl-4-imidazolylmethylene) carbazic acid ethyl ester
A solution of 16.68 gm. of ethyl carbazate in 50 ml. of hot ethanol is added to a solution of 16.50 gm. of 2-methyl-4-imidazolecarboxaldehyde in 100 ml. of hot ethanol containing 2 drops of acetic acid. The reaction is carried out as described in Example 32 giving the desired product, m.p. 210.5°-211.5° C.

reactant | ethyl carbazate | C(NN)(=O)OCC | C3H8N2O2
reactant | ethanol | C(C)O | C2H6O
reactant | 2-methyl-4-imidazolecarboxaldehyde | CC=1NC=C(N1)C=O | C5H6N2O
catalyst | ethanol | 2 drops | C(C)O | C2H6O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 3-(2-Methyl-4-imidazolylmethylene) carbazic acid ethyl ester | C(C)OC(NN=CC=1N=C(NC1)C)=O | C8H12N4O2
